US08957089B2
2,4-dichloro-N-(2-{1-[1-(4-chloro-phenyl)-cyclobutyl]-3,4-dihydro-isoquinolin-7-yloxy}-ethyl)-benzamide (80.0 mg, 0.15 mmol) and sodium borohydride (12.0 mg, 0.32 mmol) were dissolved in H2O (10 ml) and MeOH (0.5 ml) and stirred for 14 h at RT. Water was added and the mixture was extracted with ethyl acetate. The organic layers were washed with water and saturated NaCl solution, dried with MgSO4, and the solvent was removed. The residue was transferred into the hydrochloride salt using HCl dissolved in isopropanole (6 molar solution). Crystallization gave 2,4-Dichloro-N-(2-{1-[1-(4-chloro-phenyl)-cyclobutyl]-1,2,3,4-tetrahydro-isoquinolin-7-yloxy}-ethyl)-benzamide (60.0 mg, 0.11 mmol, 70%) as white solid.

reactant | 2,4-dichloro-N-(2-{1-[1-(4-chloro-phenyl)-cyclobutyl]-3,4-dihydro-isoquinolin-7-yloxy}-ethyl)-benzamide | 0.15 mmol, 80.0 mg | ClC1=C(C(=O)NCCOC2=CC=C3CCN=C(C3=C2)C2(CCC2)C2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C28H25Cl3N2O2
reactant | sodium borohydride | 0.32 mmol, 12.0 mg | [BH4-].[Na+]
reactant | MeOH | 0.5 ml | CO | CH4O
solvent | H2O | 10 ml | O | H2O
product | 2,4-Dichloro-N-(2-{1-[1-(4-chloro-phenyl)-cyclobutyl]-1,2,3,4-tetrahydro-isoquinolin-7-yloxy}-ethyl)-benzamide | 0.11 mmol, 60.0 mg, 70% | ClC1=C(C(=O)NCCOC2=CC=C3CCNC(C3=C2)C2(CCC2)C2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C28H27Cl3N2O2
